US05219886
4-AMINO-2(S)-HYDROXYBUTYRIC ACID ETHYL ESTER, HYDROCHLORIDE
Add 4-benzyloxycarbonylamino-2(S)-hydroxybutyric acid (2.57 g) to absolute ethanol (30 ml) containing thionyl chloride (2.0 ml) and heat the resulting mixture under reflux for 20 hours. Cool, filter and concentrate the reaction mixture in vacuo to give a pale yellow oil. Chromatograph this oil on a column of silica gel (500 ml) using ethyl acetate as eluant to obtain a yellow oil, [α]D26 =+0.4° (MeOH). Hydrogenate the product (1.4 g) in absolute ethanol (50 ml) containing 10% Pd/C (0.50 g) at 50 psi for 2 hours. Filter the mixture and concentrate the mixture in vacuo to give the title compound as an oil.

reactant | 4-benzyloxycarbonylamino-2(S)-hydroxybutyric acid | 2.57 g | C(C1=CC=CC=C1)OC(=O)NCC[C@@H](C(=O)O)O | C12H15NO5
reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | MeOH | CO | CH4O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.50 g | [Pd] | Pd
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-AMINO-2(S)-HYDROXYBUTYRIC ACID ETHYL ESTER, HYDROCHLORIDE | Cl.C(C)OC([C@H](CCN)O)=O | InChI=1S/C6H13NO3.ClH/c1-2-10-6(9)5(8)3-4-7;/h5,8H,2-4,7H2,1H3;1H/t5-;/m0./s1
